US07091215B2
tert-Butyl N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate
After dissolving tert-butyl N-[7-iodo-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate (2.0 g) in 1,2-dimethoxyethane (60 mL) and water (30 mL), 4,6-dimethyl-2-methoxyphenylboric acid (1.33 g), tetrakis(triphenylphosphine)palladium (0) complex (865 mg) and barium hydroxide octahydrate (2.34 g) were added and the mixture was heated and stirred at 80° C. for 3 hours. Water was added to the reaction mixture, extraction was performed with ethyl acetate and the extract was washed with brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (2.1 g) was obtained from the n-hexane:ethyl acetate (20:1) fraction as yellow amorphous.

reactant | tert-butyl N-[7-iodo-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate | 2.0 g | IC1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)SC | C13H16IN3O2S
reactant | 4,6-dimethyl-2-methoxyphenylboric acid | 1.33 g | CC1=CC(=C(C(=C1)C)OB(O)O)OC | C9H13BO4
reactant | barium hydroxide octahydrate | 2.34 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dimethoxyethane | 60 mL | COCCOC | C4H10O2
solvent | water | 30 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate | 2.1 g | COC1=C(C(=CC(=C1)C)C)C1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)SC | C22H27N3O3S
